US05824691
The mixture of ethyl 3-aminobenzoate (2.0 g), hexane-2,5-dione (1.8 ml) and acetic acid (0.7 ml) in benzene (10.0 ml) was heated under reflux for 5 hours, while water was removed in a Dean-Stark apparatus. To the mixture was added a mixture of ethyl acetate and water and the mixture was adjusted to pH 8 with potassium carbonate. The separated organic layer was washed with a brine, dried over magnesium sulfate and evaporated in vacuo to give ethyl 3-(2,5-dimethylpyrrol-1-yl)benzoate (2.9 g) as an oil.

reactant | ethyl 3-aminobenzoate | 2.0 g | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | hexane-2,5-dione | 1.8 ml | CC(CCC(C)=O)=O | C6H10O2
reactant | acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | benzene | 10.0 ml | C1=CC=CC=C1 | C6H6
product | ethyl 3-(2,5-dimethylpyrrol-1-yl)benzoate | 2.9 g | CC=1N(C(=CC1)C)C=1C=C(C(=O)OCC)C=CC1 | C15H17NO2
